US07495007B2
Preparation of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-methoxy-phenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′-dione
To a stirred solution of racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-methoxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione (50 mg, 0.088 mmol) in MeOH (2 ml) was added 2N NaOH dropwise. The reaction was stirred for 30 min and extracted with EtOAc. The combined organic extract was dried and concentrated and was purified by flash chromatography, eluting with CH2Cl2, then EtOAc. Recrystallization gave the title compound as a white solid (13 mg, 13% yield). MS (H+), 491

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-methoxy-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | 0.088 mmol, 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C[Si](C)(C)C)OC)=O | C30H28Cl2N2O3Si
reactant | NaOH | 2N | [OH-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[5-ethynyl-2-methoxy-phenyl]-spiro[3H-indole-3,3′-piperidine]-2,6′-dione | 13 mg, 13% yield | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C)OC)=O | C27H20Cl2N2O3
